US04182624
(a) 1-Benzhydryl-2-mercapto-5-methoxycarbonyl-imidazole
31.3 g (0.1 mol) of 2-benzhydrylformyl)-amino-3-oxopropionic acid methyl ester (prepared by formylation of (benzhydrylformyl)-aminoacetic acid methyl ester according to J. Am. Chem. Soc. 71, (1949), page 644, and 18 g of potassium thiocyanate were introduced into a mixture of 200 cc of tetrahydrofurane, 200 cc of water and 16.5 cc of 36% aqueous hydrochloric acid while stirring. Stirring was continued for 31/2 hours at 40° C.; then the organic phase was separated and the solvent removed under reduced pressure. The residue was taken up in methylene chloride and freed from acid residues by shaking twice with water. After washing with methanol, 29.8 g (92% of the theory) of 1-benzhydryl-2-mercapto-5-methoxy-imidazole melting at 194° C. were obtained.

reactant | amino-3-oxopropionic acid methyl ester | COC(C(C=O)N)=O | C4H7NO3
reactant | (benzhydrylformyl)-aminoacetic acid methyl ester | COC(C(N)C(=O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO3
reactant | potassium thiocyanate | 18 g | [S-]C#N.[K+]
reactant | hydrochloric acid | 16.5 cc | Cl | ClH
solvent | water | 200 cc | O | H2O
solvent | tetrahydrofurane | 200 cc | O1CCCC1 | C4H8O
product | 1-Benzhydryl-2-mercapto-5-methoxycarbonyl-imidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1C(=O)OC)S | C18H16N2O2S
